US07282501B2
3-[4-hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester
A slurry of 3-(2-aminomethyl-4-hydroxy-phenyl)-propionic acid tert-butyl ester (75.4 g, 0.3 mol) in CH2Cl2 (900 mL) at 1° C. was treated with triethylamine (60.7 g, 0.6 mol). Isopropyl chloroformate (300 mL, 0.3 mol, 1M in toluene) was added while maintaining the temperature less than 12° C. The resulting solution was stirred 16 h at ambient temperature. After 16 h, additional isopropyl chloroformate (15 mL, 0.015 mol, 1.0M in toluene) was added, and the reaction was stirred for 1 h. The reaction mixture was washed with 1N HCl (2×200 mL) and saturated NaHCO3 solution (2×200 mL). The organic layer was dried (Na2SO4) and concentrated. The residue was purified by filtration through Merck silica gel 62 (750 grams, CH2Cl2/MeOH 100/0 to 96/4) to give the title compound (95.48 g, 94.3%). 1H NMR (300 MHz, CDCl3): δ 1.20-1.24 (d, 6H), 1.40 (s, 9H), 2.46-2.52 (t, 2H), 2.81-2.86 (t, 2H), 4.294.32 (d, 2H), 4.86-4.97 (m, 1H), 5.19-5.28 (m, 1H), 6.67-6.72 (dd, 2H), 6.76 (s, 1H), 6.97-7.00 (d, 1H). MS (ES−) m/z 336.1 [M−H]−.

reactant | 3-(2-aminomethyl-4-hydroxy-phenyl)-propionic acid tert-butyl ester | 0.3 mol, 75.4 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CN)=O | C14H21NO3
reactant | triethylamine | 0.6 mol, 60.7 g | C(C)N(CC)CC | C6H15N
reactant | Isopropyl chloroformate | 0.3 mol, 1M, 300 mL | ClC(=O)OC(C)C | C4H7ClO2
solvent | CH2Cl2 | 900 mL | C(Cl)Cl | CH2Cl2
catalyst | isopropyl chloroformate | 0.015 mol, 1.0M, 15 mL | ClC(=O)OC(C)C | C4H7ClO2
product | 3-[4-hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester | 95.48 g, 94.3% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CNC(=O)OC(C)C)=O | C18H27NO5
